US07125901B2
Ethyl 2-(acetylamino)-4-[2-(4-aminophenyl)ethyl]-1,3-thiazole-5-carboxylate (310 mg) prepared in a similar manner according to Step 3 of Production Example 22 was dissolved in tetrahydrofuran (6 ml) under nitrogen atmosphere. Then di(tert-butyl)dicarbonate (223 mg) in tetrahydrofuran (1 ml) was added to the solution at room temperature. The reaction mixture was refluxed for 2 hours. After cooled to room temperature, the mixture was concentrated in vacuo. The residual solid was washed with ethyl ether to give ethyl 2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazole-5-carboxylate (370.7 mg) as an off-white 30 solid.

reactant | Ethyl 2-(acetylamino)-4-[2-(4-aminophenyl)ethyl]-1,3-thiazole-5-carboxylate | 310 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)N)C(=O)OCC | C16H19N3O3S
reactant | di(tert-butyl)dicarbonate | 223 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | ethyl 2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazole-5-carboxylate | 370.7 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)C(=O)OCC | C21H27N3O5S
